US09328116B2
Synthesis of 1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-3-[3-(trifluoromethyl)pyrazol-1-yl]pyrrolidin-2-one
A mixture of 3-bromo-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.015 g, 0.041 mmol), 5-(trifluoromethyl)-1H-pyrazole (0.030 g, 0.22 mmol) and K2CO3 (0.030 g, 0.22 mmol) in DMF (0.5 mL) was stirred at 60° C. for 40 min. The mixture was then cooled to room temperature, quenched with water (30 mL), extracted with EtOAc (50 mL), and purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to yield the title compound (0.014 g, 81%). 1H NMR (400 MHz, CDCl3) δ 7.70 (d, J=1.6 Hz, 1H), 7.57 (s, 1H), 7.38 (dd, J=8.8, 4.8 Hz, 2H), 7.18 (dd, J=8.4, 8.4 Hz, 2H), 6.58 (d, J=2.4 Hz, 1H), 5.07 (dd, J=8.8, 7.2 Hz, 1H), 4.03 (m, 1H), 3.82 (m, 1H), 2.97 (heptet, J=7.6 Hz, 1H), 2.84 (m, 2H), 1.20 (d, J=7.2 Hz, 3H), 1.12 (d, J=7.2 Hz, 3H); MS: (ES) m/z calculated for C20H19F4N5O [M+H]+ 422.1. found 422.1.

reactant | 3-bromo-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.041 mmol, 0.015 g | BrC1C(N(CC1)C=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)=O | C16H17BrFN3O
reactant | 5-(trifluoromethyl)-1H-pyrazole | 0.22 mmol, 0.030 g | FC(C1=CC=NN1)(F)F | C4H3F3N2
reactant | K2CO3 | 0.22 mmol, 0.030 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]-3-[3-(trifluoromethyl)pyrazol-1-yl]pyrrolidin-2-one | 0.014 g, 81% | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N1C(C(CC1)N1N=C(C=C1)C(F)(F)F)=O | C20H19F4N5O
